US08026257B2
(±)-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)indolin-2-one.
To a solution of tert-butyl 4-(4-fluorophenyl)-4-((1-(2-oxo-5-(trifluoromethyl)indolin-7-yl)ethoxy)methyl)piperidine-1-carboxylate (13 mg, 0.024 mmol) in dichloromethane (1.5 mL) at ice bath temperature was added TFA (200 μL, 2.60 mmol). The mixture was stirred at this temperature for 1 hour. TLC (30% ethyl acetate/hexanes) indicated complete conversion of starting material. The mixture was concentrated and the crude residue was loaded onto an SCX cartridge (Phenomenex Strata X-C 200mg) with methanol then the resin was washed with methanol and the compound eluted with 2N NH3 in methanol to give the product (10.2 mg, 0.023 mmol, 96%) as a clear pale yellow film. 1H-NMR (CDCl3, 400 MHz) δ 7.57-7.88 (m, 1H), 7.32 (s, 1H), 7.21-7.29 (m, 2H), 7.11 (s, 1H), 7.03 (t, J=8.69 Hz, 2H), 4.28 (q, J=6.55 Hz, 1H), 3.42 (s, 2H), 3.31-3.36 (m, 1H), 3.24-3.30 (m, 1H), 2.83-2.96 (m, 2H), 2.63-2.80 (m, 2H), 2.17 (ddd, J=13.72, 2.27 Hz, 1H), 2.06 (dt, J=13.60, 2.27 Hz, 1H), 1.74-1.91 (m, 2H), 1.29 (d, J=6.55 Hz, 3H). Mass spec. (M-H)−: 435.5, (MH)+: 437.3.

reactant | tert-butyl 4-(4-fluorophenyl)-4-((1-(2-oxo-5-(trifluoromethyl)indolin-7-yl)ethoxy)methyl)piperidine-1-carboxylate | 0.024 mmol, 13 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COC(C)C=1C=C(C=C2CC(NC12)=O)C(F)(F)F | C28H32F4N2O4
reactant | TFA | 2.60 mmol, 200 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | (±)-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)indolin-2-one | 0.023 mmol, 10.2 mg, 96% | FC1=CC=C(C=C1)C1(CCNCC1)COC(C)C=1C=C(C=C2CC(NC12)=O)C(F)(F)F | C23H24F4N2O2
